US04402972
Using the procedure of Step A of Example 7, 1.4 g of (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-(2-carboxyethynyl)-cyclopropane-carboxylate and 0.3 ml of cyclopropylcarbinol were reacted and the product was chromatographed over silica gel. Elution with an 8-2 cyclohexane-ethyl acetate mixture yielded 1.5 g of (S)α-cyano-3-phenoxybenzyl (1R,cis) 2,2-dimethyl-3-(cyclopropylmethoxycarbonyl-ethynyl)-cyclopropane-carboxylate melting at 72° C.

reactant | (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3-(2-carboxyethynyl)-cyclopropane-carboxylate | 1.4 g | CC1([C@@H]([C@@H]1C#CC(=O)O)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C23H19NO5
reactant | cyclopropylcarbinol | 0.3 ml | C1(CC1)CO | C4H8O
product | (S)α-cyano-3-phenoxybenzyl (1R,cis) 2,2-dimethyl-3-(cyclopropylmethoxycarbonyl-ethynyl)-cyclopropane-carboxylate | 1.5 g | CC1([C@@H]([C@@H]1C#CC(=O)OCC1CC1)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C27H25NO5
